US08377970B2
N-{4-[5-cyclopropyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]phenyl}pyridine-4-carboxamide hydrochloride
Following general procedure-1, N-{4-[5-cyclopropyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]phenyl}pyridine-4-carboxamide (120 mg) was prepared from pyridine-4-carboxylic acid (66 mg, 0.54 mmol) and intermediate 31 (120 mg, 0.45 mmol) as a pale yellow solid and dissolved in THF. Saturated HCl in diethyl ether was added at 0° C. to it and stirred for 15 min Solid that separated out was filtered and dried to give the title compound (70 mg) as a yellow solid. M.P. 210-215° C. 1H-NMR (δ ppm, DMSO-d6, 400 MHz): 10.90 (s, 1H), 8.90 (d, J 5.40, 2H), 8.07 (d, J 5.40, 2H), 7.99 (d, J 8.8, 2H), 7.66 (d, J 8.8, 2H), 6.62 (s, 1H), 1.86-1.82 (m, 1H), 0.99-0.95 (m, 2H), 0.83-0.79 (m, 2H). MS (m/z): 406.89 [M−H]−.

reactant | N-{4-[5-cyclopropyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]phenyl}pyridine-4-carboxamide | 120 mg | C1(CC1)C1=CC(=NN1C1=CC=C(C=C1)NC(=O)C1=CC=NC=C1)C(F)(F)F | C19H15F3N4O
reactant | pyridine-4-carboxylic acid | 0.54 mmol, 66 mg | N1=CC=C(C=C1)C(=O)O | C6H5NO2
reactant | HCl | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-{4-[5-cyclopropyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]phenyl}pyridine-4-carboxamide hydrochloride | 70 mg | Cl.C1(CC1)C1=CC(=NN1C1=CC=C(C=C1)NC(=O)C1=CC=NC=C1)C(F)(F)F | InChI=1S/C19H15F3N4O.ClH/c20-19(21,22)17-11-16(12-1-2-12)26(25-17)15-5-3-14(4-6-15)24-18(27)13-7-9-23-10-8-13;/h3-12H,1-2H2,(H,24,27);1H
